US05159081
A 2.0 g (8.9 mMol) portion of arginine methyl ester hydrochloride was contacted with isovaleric acid (755 mg), HOBT (1 g), triethylamine (747 mg) and DCC (1.52 g) in DMF (150 ml) under the conditions described in Example 30 to give N-isovaleryl-arginine methyl ester as a crystalline solid (1.71 g).

reactant | arginine methyl ester hydrochloride | Cl.COC([C@@H](N)CCCNC(N)=N)=O
reactant | isovaleric acid | 755 mg | C(CC(C)C)(=O)O | C5H10O2
reactant | HOBT | 1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 1.52 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 747 mg | C(C)N(CC)CC | C6H15N
product | N-isovaleryl-arginine methyl ester | 1.71 g | COC([C@@H](NC(CC(C)C)=O)CCCNC(N)=N)=O | C12H24N4O3
